US05998412
Potassium tert-butoxide (2.81 g, 25.02 mmol) was added to a solution of 5-hydroxyindole (1.11 g, 8.34 mmol) in tert-butyl alcohol. 1-Benzyloxycarbonyl-4-piperidone (3.89 g, 16.67 mmol) was added to the purple reaction mixture at RT. After 16 h, the reaction mixture was diluted with ethyl acetate (100 ml) and washed with saturated sodium bicarbonate, brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed (SiO2, 25-45% ethyl acetate/hexanes) to give 4-(5-hydroxyindol-3-yl)-1,2,3,6-tetrahydropyridine as a white solid (92%).

reactant | Potassium tert-butoxide | 25.02 mmol, 2.81 g | CC(C)([O-])C.[K+]
reactant | 5-hydroxyindole | 8.34 mmol, 1.11 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | 1-Benzyloxycarbonyl-4-piperidone | 16.67 mmol, 3.89 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5-hydroxyindol-3-yl)-1,2,3,6-tetrahydropyridine | 92% | OC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H14N2O
